US04929613
1-Cyclopropyl-6-fluoro-1,4-dihydro-7-(1-methyl-4-piperidinyl)-4-oxo-3-quinolinecarboxylic acid hydrochloride.
A solution of 3.71 g (10 mmoles) of ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-methyl-4-piperidinyl)-4-oxo-3-quinolinecarboxylate in 50 ml 6 N HCl was refluxed 1 hour and evaporated to dryness to afford the title compound.

reactant | ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-methyl-4-piperidinyl)-4-oxo-3-quinolinecarboxylate | 10 mmoles, 3.71 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)C1CCN(CC1)C)F)=O)C(=O)OCC | C21H25FN2O3
reactant | HCl | 6 N, 50 ml | Cl | ClH
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-7-(1-methyl-4-piperidinyl)-4-oxo-3-quinolinecarboxylic acid hydrochloride | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)C1CCN(CC1)C)F)=O)C(=O)O | InChI=1S/C19H21FN2O3.ClH/c1-21-6-4-11(5-7-21)13-9-17-14(8-16(13)20)18(23)15(19(24)25)10-22(17)12-2-3-12;/h8-12H,2-7H2,1H3,(H,24,25);1H
